US06281227B1
C. (2-Iodo-pyridin-3-yl)-carbamic acid ethyl ester
Ethyl chloroformate (0.91 mL, 9.5 mmol) is added to a solution of 3-amino-2-iodo-pyridine (1.4 g, 6.36 mmol) in 15 mL of pyridine cooled at 0° C. The mixture is stirred at 0° C. for 2 hours and allowed to warm slowly to room temperature. At this time, excess pyridine is removed in vacuo. The residue is diluted with EtOAc and washed with water, 1N HCl and saturated NaHCO3. The organic layer is dried over MgSO4, filtered and concentrated in vacuo. The crude product is purified by column chromatography eluting with 30% EtOAc/hexanes to give the title compound (1.2 g, 4.11 mmol) as a beige solid.

reactant | Ethyl chloroformate | 9.5 mmol, 0.91 mL | ClC(=O)OCC | C3H5ClO2
reactant | 3-amino-2-iodo-pyridine | 6.36 mmol, 1.4 g | NC=1C(=NC=CC1)I | C5H5IN2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | (2-Iodo-pyridin-3-yl)-carbamic acid ethyl ester | 4.11 mmol, 1.2 g | C(C)OC(NC=1C(=NC=CC1)I)=O | C8H9IN2O2
